US04746356
N-[(Butylamino)carbonyl]-1-methyl-1H-benzotriazole-4-sulfonamide
To a stirred mixture of 1-methyl-1H-benzotriazole-4-sulfonamide (7.5 g), potassium carbonate (5.1 g), and 2-butanone (250 mL) was added butylisocyanate (3.9 mL) under an inert atmosphere. The reaction was heated at reflux for 15 hours. The cooled reaction mixture was poured into ice (500 mL), acidified with concentrated hydrochloric acid, and extracted with ethyl acetate-tetrahydrofuran. The extracts were dried over magnesium sulfate, filtered, and evaporated. The crude solid was washed with chlorobutane-hexanes and air dried to give 8.65 g of the title compound as a white solid, m.p. 170°-173° C.

reactant | 1-methyl-1H-benzotriazole-4-sulfonamide | 7.5 g | CN1N=NC2=C1C=CC=C2S(=O)(=O)N | C7H8N4O2S
reactant | potassium carbonate | 5.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | butylisocyanate | 3.9 mL | C(CCC)N=C=O | C5H9NO
reactant | hydrochloric acid | Cl | ClH
solvent | 2-butanone | 250 mL | CC(CC)=O | C4H8O
product | N-[(Butylamino)carbonyl]-1-methyl-1H-benzotriazole-4-sulfonamide | 8.65 g | C(CCC)NC(=O)NS(=O)(=O)C1=CC=CC=2N(N=NC21)C | C12H17N5O3S
